US03948939
C. Benzyl 1,2,3,4-tetrahydrocarbazole-4-carboxylate
A stirred mixture of 13 g. 1,2,3,4-tetrahydrocarbazole-4-carboxylic acid, 7.8 g. benzyl chloride and 6.5 g. sodium carbonate in dry dimethylformamide was heated on a steam bath for one hour and filtered. The dimethylformamide was evaporated under reduced pressure and the resulting oil was taken up in ether. The ether solution was washed with water, dried and evaporated to give, after recrystallization, 15.5 g. of the title compound, m.p. 108°-112°C. (heptane).

reactant | 1,2,3,4-tetrahydrocarbazole-4-carboxylic acid | C1CCC(C=2C3=CC=CC=C3NC12)C(=O)O | C13H13NO2
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Benzyl 1,2,3,4-tetrahydrocarbazole-4-carboxylate | C1CCC(C=2C3=CC=CC=C3NC12)C(=O)OCC1=CC=CC=C1 | C20H19NO2
